US08022206B2
5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carboxylic acid
A mixture of 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-6-ylamine (100.0 mg, 0.238 mmol), 5-(dihydroxyboryl)thiophene-2-carboxylic acid (205 mg, 1.19 mmol), Pd(PPh3)4 (10.0 mg, 0.01 mmol), potassium carbonate (98.7 mg, 0.714 mmol) and 4:1 dioxane:water (4 mL) was heated in a microwave reactor at 100° C. for 6 h. The material was dry-loaded onto silica gel for column chromatography. The crude product was eluted with 20% MeOH/DCM. The fractions containing the product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.90 (d, J=6.8 Hz, 3H), 6.54 (q, J=6.9 Hz, 1H), 7.22 (t, J=8.6 Hz, 1H), 7.31 (d, J=3.8 Hz, 1H), 7.41 (dd, J=9.0, 4.9 Hz, 1H), 7.53 (d, J=3.8 Hz, 1H), 7.92 (s, 1H), 8.27 (s, 1H).

reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-6-ylamine | 0.238 mmol, 100.0 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 5-(dihydroxyboryl)thiophene-2-carboxylic acid | 1.19 mmol, 205 mg | OB(C1=CC=C(S1)C(=O)O)O | C5H5BO4S
reactant | potassium carbonate | 0.714 mmol, 98.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 10.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carboxylic acid | NC1=C(C2=C(C=N1)C(=CO2)C2=CC=C(S2)C(=O)O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H13Cl2FN2O4S
